US06002008
4-(4-Chloro-2-fluoro-phenylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 274. A reaction mixture of 328.0 mg (1.5 mmol) of 4-chloro-8-methoxy -3-quinolinecarbonitrile, 173.3 mg (1.5 mmol) of pyridine hydrochloride and 240.0 mg (1.7 mmol) of 2-fluoro-4-chloroaniline in 15 mL of 2-ethoxyethanol was heated at 100° C. for 2 hr. After the work up, 431.3 mg (87.9%) of the product was obtained as an off white solid, m.p. 127° C. (dec.), mass spectrum (electrospray, m/e): M+H 327.8, 329.9.

reactant | 4-chloro-8-methoxy -3-quinolinecarbonitrile | 1.5 mmol, 328.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | pyridine hydrochloride | 1.5 mmol, 173.3 mg | Cl.N1=CC=CC=C1
reactant | 2-fluoro-4-chloroaniline | 1.7 mmol, 240.0 mg | FC1=C(N)C=CC(=C1)Cl | C6H5ClFN
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(4-Chloro-2-fluoro-phenylamino)-8-methoxy-quinoline-3-carbonitrile | 431.3 mg, 87.9% | ClC1=CC(=C(C=C1)NC1=C(C=NC2=C(C=CC=C12)OC)C#N)F | C17H11ClFN3O
